US06114325
[2-(N-Octadecylcarbamoyl)phenyl]methyl-4-(2-hydroxyethyl)piperazinecarboxylate hydrochloride (Compound 37)
4N Hydrochloric acid--ethyl acetate solution (0.40 ml) was added to a solution of [2-(N-octadecylcarbamoyl)phenyl]methyl 4-(2-hydroxyethyl)piperazinecarboxylate (0.45 g) in ethyl acetate (10 ml) at room temperature. After being stirred for 10 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 0.39 g of the aimed compound as white solid.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-(N-octadecylcarbamoyl)phenyl]methyl 4-(2-hydroxyethyl)piperazinecarboxylate | 0.45 g | OCCN1CCN(CC1)C(=O)OCC1=C(C=CC=C1)C(NCCCCCCCCCCCCCCCCCC)=O | C33H57N3O4
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.40 ml | C(C)(=O)OCC | C4H8O2
product | [2-(N-Octadecylcarbamoyl)phenyl]methyl-4-(2-hydroxyethyl)piperazinecarboxylate hydrochloride | 0.39 g | Cl.C(CCCCCCCCCCCCCCCCC)NC(=O)C1=C(C=CC=C1)COC(=O)N1CCN(CC1)CCO | InChI=1S/C33H57N3O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19-22-34-32(38)31-21-18-17-20-30(31)29-40-33(39)36-25-23-35(24-26-36)27-28-37;/h17-18,20-21,37H,2-16,19,22-29H2,1H3,(H,34,38);1H
